US07361763B2
Step 1: Synthesis of 2-Hydroxy-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester
To a solution of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (502 mg, 1.00 mmol) in 1.5 mL saturated aqueous NaHCO3 and 5.0 mL acetonitrile was added methyl 5-bromosalicylate (253 mg, 1.10 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), complex with dichloromethane (1:1) (41 mg, 0.05 mmol) in a microwave vial. The vial was capped, flushed with N2, evacuated under vacuum, and subsequently heated in a microwave at 90° C. for 300 seconds. The material was diluted with ethyl acetate and the organic layer was washed with saturated NaHCO3 (aq) and brine then dried over Na2SO4. The material was filtered then adsorbed onto silica gel and purified by flash chromatography with a gradient of ethyl acetate and hexane, affording the title compound as a hydroscopic white solid (480 mg, 91% yield). 1H NMR (500 MHz, CD3OD) δ8.55 (d, J=2.0 Hz, 1H), 8.06 (m, 4H), 7.96 (s, 1H), 7.77 (dd, J=2.5, 6.0 Hz, 1H), 7.52 (dd, J=2.0, 6.0 Hz, 1H), 7.40 (m, 3H), 7.16 (d, J=8.5 Hz,1H), 7.08 (m, 2H), 3.98 (s, 3H), 3.87 (s, 3H), 2.39 (s, 3H). MS: m/z 529.1 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.00 mmol, 502 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | methyl 5-bromosalicylate | 1.10 mmol, 253 mg | BrC1=CC=C(C(C(=O)OC)=C1)O | C8H7BrO3
reactant | dichloromethane | 0.05 mmol, 41 mg | ClCCl | CH2Cl2
solvent | NaHCO3 | 1.5 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Hydroxy-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid methyl ester | 480 mg, 91% yield | COC(C1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)O)=O | C29H24N2O6S
